* NGSPICE file created from vco_ring_osc.ext - technology: sky130A

.subckt vco_aux_inv A VPWR VGND Y VCCA GND
X0 Y A VPWR VCCA sky130_fd_pr__pfet_01v8 ad=2 pd=10.8 as=2 ps=10.8 w=5 l=3.65
X1 Y A VGND GND sky130_fd_pr__nfet_01v8 ad=1.6 pd=8.8 as=1.6 ps=8.8 w=4 l=3.65
.ends

.subckt vco_main_inv A VPWR VGND Y VCCA GND
X0 VPWR A Y VCCA sky130_fd_pr__pfet_01v8 ad=2 pd=10.8 as=1 ps=5.4 w=5 l=3.65 M=2
X1 Y A VGND GND sky130_fd_pr__nfet_01v8 ad=0.8 pd=4.4 as=1.6 ps=8.8 w=4 l=3.65 M=2
.ends

.subckt vco_cc_inv inp inn outp outn VPWR VCCA GND VGND
Xvco_aux_inv_0 outp VPWR VGND outn VCCA GND vco_aux_inv
Xvco_aux_inv_1 outn VPWR VGND outp VCCA GND vco_aux_inv
Xvco_main_inv_0 inp VPWR VGND outp VCCA GND vco_main_inv
Xvco_main_inv_1 inn VPWR VGND outn VCCA GND vco_main_inv
.ends

.subckt vco_ring_osc VGND VPWR p[0] p[1] p[2] p[3] p[4] pn[0] pn[1] pn[2] pn[3] pn[4]
+ VCCA GND
Xvco_cc_inv_0 p[4] pn[4] p[0] pn[0] VPWR VCCA GND VGND vco_cc_inv
Xvco_cc_inv_1 p[0] pn[0] p[1] pn[1] VPWR VCCA GND VGND vco_cc_inv
Xvco_cc_inv_2 p[1] pn[1] p[2] pn[2] VPWR VCCA GND VGND vco_cc_inv
Xvco_cc_inv_3 p[3] pn[3] p[4] pn[4] VPWR VCCA GND VGND vco_cc_inv
Xvco_cc_inv_4 p[2] pn[2] p[3] pn[3] VPWR VCCA GND VGND vco_cc_inv
.ends

